2166-02-04 09:22:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   On NIPPV since arrival in MICU --> pCO2 98 after 4 hrs
   Pt feels well this AM with no complaints
   24 Hour Events:
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Furosemide (Lasix) - [**2166-2-4**] 04:00 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-2-4**] 09:22 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.1
C (98.8
   Tcurrent: 37.1
C (98.8
   HR: 96 (86 - 98) bpm
   BP: 141/64(83) {124/59(75) - 175/85(109)} mmHg
   RR: 34 (27 - 37) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
                  Total In:
                  200 mL
   PO:
                  TF:
   IVF:
   Blood products:
   Total out:
                                                                      0 mL
                                                                  1,170 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                   -970 mL
   Respiratory support
   O2 Delivery Device: CPAP mask
   SpO2: 97%
   ABG: 7.34/98.[**Numeric Identifier 176**]/66/47/21
   Physical Examination
   General Appearance: No(t) No acute distress, NIPPV on
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), (Murmur: Systolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Diminished: )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   conversive
   Labs / Radiology
   10.7 g/dL
   196 K/uL
   98 mg/dL
   1.0 mg/dL
   47 mEq/L
   5.0 mEq/L
   19 mg/dL
   93 mEq/L
   147 mEq/L
   36.8 %
   3.8 K/uL
        [image002.jpg]
                             [**2166-2-4**]  01:41 AM
                             [**2166-2-4**]  03:39 AM
                             [**2166-2-4**]  05:46 AM
                             [**2166-2-4**]  07:35 AM
   WBC
   3.8
   Hct
   36.8
   Plt
   196
   Cr
   1.0
   TropT
   <0.01
   TCO2
   56
   55
   Glucose
   98
   Other labs: CK / CKMB / Troponin-T:74//<0.01, Lactic Acid:0.9 mmol/L
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HYPOXEMIA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   70 yo woman with hypercarbic respiratory failure in setting of severe
   kyphoscoliosis.  MS [**First Name (Titles) 117**] [**Last Name (Titles) 12857**] after a night on NIPPV.
   -Will see how she does over the day off of NIPPV
   --500cc negative today
   --NIPPV overnight
   --If she does well, home versus floor tomorrow.
   --Aim for pCO2 80-90
   Remainder of issues per ICU team
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-2-4**] 01:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 32 minutes
   Patient is critically ill

2166-02-05 07:57:00 Physician Resident Progress Note
Chief Complaint: AMS in context of BiPAP non-compliance at home.
   Worsening respiratory failure on floor.
   24 Hour Events:
   - Echo: Hyperdynamic LV with EF 75%. Unusually small LV volume. Likely
   increased LV filling pressure(PCWP>18mmHg). Minimal AS. Moderate TR.
   Severe pulmonary artery HTN, increased from prior echo.
   - TSH, folate, B12 came back within normal limits.
   - Gave patient thiamine for elevated MCV.
   - Weaned to nasal cannula during day.
   - Patient with episodes of visual/audio hallucination (seeing people
   not in the room and hearing a baby) during the afternoon and evening
   when off CPAP and on nasal cannula. ABG obtained in the morning with
   her on nasal cannula. Patient was placed back on CPAP titrated to
   mental status.
   - Patient with good urine output throughout the day and evening.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-5**] 07:56 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 88 (80 - 105) bpm
   BP: 141/77(91) {119/51(70) - 156/95(101)} mmHg
   RR: 24 (19 - 38) insp/min
   SpO2: 90%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    500 mL
                                                                    100 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
   100 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    195 mL
   Urine:
                                                                  1,765 mL
                                                                    195 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,690 mL
                                                                    -95 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula, CPAP mask , Other
   SpO2: 90%
   ABG: 7.33/101/50/46/21
   Physical Examination
   General Appearance: Comfortable on nasal cannula this morning.
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: Dual sounds with fixed split of S2, no M/R/G
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: Diminished sounds and very little expansion. Clear
   with some crackles only at left base.
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Oriented year, hospital. Movement: Purposeful,
   Tone: Normal
   Labs / Radiology
   151 K/uL
   10.0 g/dL
   95 mg/dL
   1.1 mg/dL
   46 mEq/L
   3.9 mEq/L
   20 mg/dL
   93 mEq/L
   143 mEq/L
   33.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2166-2-4**]  01:41 AM
                             [**2166-2-4**]  03:39 AM
                             [**2166-2-4**]  05:46 AM
                             [**2166-2-4**]  07:35 AM
                             [**2166-2-5**]  03:27 AM
                             [**2166-2-5**]  03:32 AM
   WBC
   3.8
   4.9
   Hct
   36.8
   33.7
   Plt
   196
   151
   Cr
   1.0
   1.1
   TropT
   <0.01
   TCO2
   56
   55
   56
   Glucose
   98
   95
   Other labs: CK / CKMB / Troponin-T:74//<0.01, Lactic Acid:0.9 mmol/L,
   Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Fluid analysis / Other labs: None.
   Imaging: Echo yesterday.
   CXR this a.m.: Improved. Better volumes (although severely restricted).
   Microbiology: MRSA screen and blood culture pending.
   ECG: No new today.
   Assessment and Plan
   70 yo woman with hypercarbic respiratory failure in setting of severe
   kyphoscoliosis.  MS initially improved after a night on NIPPV, but now
   with hallucination and delerium.
   # Respiratory Failure
   Contribtors include severe kyphoscoliosis resulting in severe
   restrictive physiology, severe sleep disordered breathing,
   hypoventilation syndrome, severe pHTN, chronic dHF. Gas last night when
   sleeping of NIPPV
 repeat today.
   - Work toward NC when awake and NIPPV when asleep.
   - Aim for permissive pCO2 80-90.
   - Stop Fluticasone, ipratropium
   - Continue home salmeterol and albuterol
   - No steroids at present
   - Finish course of levofloxacin given tenuous respiratory status,
   although low suspicion for PNA
   - Appears euvolemic at present but will restart home Lasix and observe
   # Delerium
   Possible contribution by metoclopramide and mild cognitive impairment,
   then respiratory failure. Other etiologies possible, but TSH, B12,
   electrolytes normal.
   # Osteoporosis
   - Cont. D and Ca
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-2-4**] 01:59 AM
   Prophylaxis:
   DVT: heparin
   Stress ulcer: pantoprazole
   VAP:  N/A
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:Transfer to floor

2166-02-05 10:39:00 Physician Attending Progress Note
Chief Complaint: Hypercarbic respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   No complaints
   24 Hour Events:
   Intermittently on NIPPV yesterday and overnight
   pCO2 of 101 while on nasal canula
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Infusions:
   Other ICU medications:
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Cardiovascular: No(t) Chest pain
   Respiratory: No(t) Dyspnea
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-2-5**] 10:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 37.5
C (99.5
   Tcurrent: 36.9
C (98.4
   HR: 96 (80 - 105) bpm
   BP: 153/76(93) {119/49(70) - 157/95(101)} mmHg
   RR: 35 (19 - 38) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    500 mL
                                                                    100 mL
   PO:
                                                                    300 mL
             TF:
   IVF:
   100 mL
   Blood products:
   Total out:
                                                                  2,190 mL
                                                                    305 mL
   Urine:
                                                                  1,765 mL
                                                                    305 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,690 mL
                                                                   -205 mL
   Respiratory support
   O2 Delivery Device: Other
   SpO2: 100%
   ABG: 7.33/101/50/46/21
   Physical Examination
   General Appearance: No acute distress, Thin
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: b/l, scattered)
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, slightly confused
   Labs / Radiology
   10.0 g/dL
   151 K/uL
   95 mg/dL
   1.1 mg/dL
   46 mEq/L
   3.9 mEq/L
   20 mg/dL
   93 mEq/L
   143 mEq/L
   33.7 %
   4.9 K/uL
        [image002.jpg]
                             [**2166-2-4**]  01:41 AM
                             [**2166-2-4**]  03:39 AM
                             [**2166-2-4**]  05:46 AM
                             [**2166-2-4**]  07:35 AM
                             [**2166-2-5**]  03:27 AM
                             [**2166-2-5**]  03:32 AM
   WBC
   3.8
   4.9
   Hct
   36.8
   33.7
   Plt
   196
   151
   Cr
   1.0
   1.1
   TropT
   <0.01
   TCO2
   56
   55
   56
   Glucose
   98
   95
   Other labs: CK / CKMB / Troponin-T:74//<0.01, Lactic Acid:0.9 mmol/L,
   Ca++:9.5 mg/dL, Mg++:2.3 mg/dL, PO4:2.6 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HYPOXEMIA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   70 yo woman with chronic hypercarbic respiratory failure in setting of
   kyphoscoliois becoming more confused at home likely [**2-11**] hypercarbia
   --Cont NIPPV with goal to try to maximize nighttime use and minimize
   daytime use
   --Levoflox for CAP
   --Will try to transition her to the medical floor --> she may not be
   able to go directly hoome from this hospitalization
   --D/C Reglan for now given delerium
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-2-4**] 01:59 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :Transfer to floor

2166-02-06 07:40:00 Physician Resident Progress Note
Chief Complaint: 70 yo woman with hypercarbic respiratory failure in
   setting of severe kyphoscoliosis.  MS initially improved after a night
   on NIPPV, but now with hallucination and delerium.
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2166-2-5**] 04:00 PM
   - Restarted Lasix
   - DC Metaclopramide
   - Culture Data
   - Family:
   - ABG repeated after patient desated to 60s. 7.32/102/35. Switched to
   non invasive. Sat improved to 94%.
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-2-6**] 12:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-2-6**] 12:38 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2166-2-6**] 07:39 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36
C (96.8
   HR: 76 (70 - 96) bpm
   BP: 114/64(75) {101/45(59) - 168/93(108)} mmHg
   RR: 25 (13 - 37) insp/min
   SpO2: 92%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    100 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                    100 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    160 mL
   Urine:
                                                                  1,755 mL
                                                                    160 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,655 mL
                                                                    -60 mL
   Respiratory support
   O2 Delivery Device: Bipap mask
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 326 (285 - 326) mL
   PS : 20 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 27 cmH2O
   SpO2: 92%
   ABG: 7.32/102/35/49/19
   Ve: 6 L/min
   PaO2 / FiO2: 117
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   187 K/uL
   10.4 g/dL
   104 mg/dL
   1.0 mg/dL
   49 mEq/L
   3.9 mEq/L
   17 mg/dL
   91 mEq/L
   145 mEq/L
   34.7 %
   3.6 K/uL
        [image002.jpg]
                             [**2166-2-4**]  01:41 AM
                             [**2166-2-4**]  03:39 AM
                             [**2166-2-4**]  05:46 AM
                             [**2166-2-4**]  07:35 AM
                             [**2166-2-5**]  03:27 AM
                             [**2166-2-5**]  03:32 AM
                             [**2166-2-5**]  03:42 PM
                             [**2166-2-6**]  04:07 AM
   WBC
   3.8
   4.9
   3.6
   Hct
   36.8
   33.7
   34.7
   Plt
   196
   151
   187
   Cr
   1.0
   1.1
   1.0
   TropT
   <0.01
   TCO2
   56
   55
   56
   55
   Glucose
   98
   95
   104
   Other labs: PT / PTT / INR:12.6/33.2/1.1, CK / CKMB /
   Troponin-T:74//<0.01, Lactic Acid:1.0 mmol/L, Ca++:9.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Fluid analysis / Other labs: NOne.
   Imaging: CXR - rotated with poorer penetrance, but essentially
   unchanged. Better view of left costophrenic angle, which is reasonably
   sharp.
   Microbiology: MRSA screen and blood culture pending .
   ECG: No new.
   Assessment and Plan
   70 yo woman with hypercarbic respiratory failure in setting of severe
   kyphoscoliosis.  MS initially improved after a night on NIPPV, but now
   with hallucination and delerium.
   # Respiratory Failure
   Contributors include severe kyphoscoliosis resulting in severe
   restrictive physiology, severe sleep disordered breathing,
   hypoventilation syndrome, severe pHTN, chronic dHF. Gas last night when
   sleeping of NIPPV
 repeat today.
   - Work toward NC when awake and NIPPV when asleep.
   - Aim for permissive pCO2 80-90.
   - Continue home salmeterol and albuterol
   - No steroids at present
   - Finish course of levofloxacin given tenuous respiratory status,
   although low suspicion for PNA
   - Appears euvolemic at present but will restart home Lasix and observe
   # Pulmonary Hypertension
   Attempt to optimize treatment
   - Discuss sildenafil on rounds
   # Delerium
   No hallucinations noted today now that metaclopramide stopped. Staying
   in bed and less confused.
   - Follow
   # Osteoporosis
   - Cont. D and Ca
   ICU Care
   Nutrition:
   Comments: Regular cardiac/heart healthy.
   Glycemic Control:  Blood sugar well controlled
   Lines:
   20 Gauge - [**2166-2-4**] 01:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU may be able to be called out today

2166-02-06 12:06:00 Physician Attending Progress Note
Chief Complaint: Respiratory failure
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   Had episode of desat with PO2 in 30s yesterday --> spontaneosly
   resolved after restarting NIPPV
   Currently off NIPPV on NC and doing well
   24 Hour Events:
 NON-INVASIVE VENTILATION - START [**2166-2-5**] 04:00 PM
   History obtained from [**Hospital 15**] Medical records, icu team
   Allergies:
   No Known Drug Allergies
   Last dose of Antibiotics:
   Levofloxacin - [**2166-2-6**] 12:04 AM
   Infusions:
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2166-2-6**] 08:45 AM
   Other medications:
   per ICU resident note
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2166-2-6**] 12:06 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since [**68**] AM
   Tmax: 36.7
C (98
   Tcurrent: 36.2
C (97.2
   HR: 85 (70 - 94) bpm
   BP: 111/51(65) {96/43(56) - 168/93(108)} mmHg
   RR: 25 (13 - 37) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
                                                                    100 mL
                                                                    100 mL
   PO:
             TF:
   IVF:
                                                                    100 mL
                                                                    100 mL
   Blood products:
   Total out:
                                                                  1,755 mL
                                                                    315 mL
   Urine:
                                                                  1,755 mL
                                                                    315 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                 -1,655 mL
                                                                   -215 mL
   Respiratory support
   O2 Delivery Device: Nasal cannula
   Ventilator mode: Standby
   Vt (Spontaneous): 323 (285 - 326) mL
   PS : 20 cmH2O
   RR (Spontaneous): 34
   PEEP: 5 cmH2O
   FiO2: 30%
   PIP: 26 cmH2O
   SpO2: 100%
   ABG: 7.32/102/35/49/19
   Ve: 7.7 L/min
   PaO2 / FiO2: 117
   Physical Examination
   General Appearance: No acute distress
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender
   Extremities: Right lower extremity edema: Absent, Left lower extremity
   edema: Absent
   Skin:  Warm
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed, pleasant,
   coversive
   Labs / Radiology
   10.4 g/dL
   187 K/uL
   104 mg/dL
   1.0 mg/dL
   49 mEq/L
   3.9 mEq/L
   17 mg/dL
   91 mEq/L
   145 mEq/L
   34.7 %
   3.6 K/uL
        [image002.jpg]
                             [**2166-2-4**]  01:41 AM
                             [**2166-2-4**]  03:39 AM
                             [**2166-2-4**]  05:46 AM
                             [**2166-2-4**]  07:35 AM
                             [**2166-2-5**]  03:27 AM
                             [**2166-2-5**]  03:32 AM
                             [**2166-2-5**]  03:42 PM
                             [**2166-2-6**]  04:07 AM
   WBC
   3.8
   4.9
   3.6
   Hct
   36.8
   33.7
   34.7
   Plt
   196
   151
   187
   Cr
   1.0
   1.1
   1.0
   TropT
   <0.01
   TCO2
   56
   55
   56
   55
   Glucose
   98
   95
   104
   Other labs: PT / PTT / INR:12.6/33.2/1.1, CK / CKMB /
   Troponin-T:74//<0.01, Lactic Acid:1.0 mmol/L, Ca++:9.2 mg/dL, Mg++:2.0
   mg/dL, PO4:2.8 mg/dL
   Assessment and Plan
 CHRONIC OBSTRUCTIVE PULMONARY DISEASE (COPD, BRONCHITIS, EMPHYSEMA)
   WITH ACUTE EXACERBATION
 HYPOXEMIA
 HYPERNATREMIA (HIGH SODIUM)
 ALTERED MENTAL STATUS (NOT DELIRIUM)
   70 yo woman with chronic hypercarbic respiratory failure in setting of
   kyphoscoliois becoming more confused at home likely [**2-11**] hypercarbia
   --Was able to use NIPPV all night and looking quite well today -->
   delerium approved
   --[**Doctor Last Name 2578**] to maintain her on NC during day today --> will aim for sats in
   low 90s
   --Levoflox for CAP
   Remainder of issues per ICU team.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   20 Gauge - [**2166-2-4**] 01:59 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU